US08183380B2
rac-N2-(8-Methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-quinoline-2,6-diamine
The title compound was prepared in accordance with the general method described in example 2 from 2-chloro-6-nitro-quinoline and rac-8-methoxy-1,2,3,4-tetrahydronaphthalen-1-amine (CAS no. 535935-61-6); MS: m/e=320.3 (M+H+).

reactant | 2-chloro-6-nitro-quinoline | ClC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C9H5ClN2O2
reactant | rac-8-methoxy-1,2,3,4-tetrahydronaphthalen-1-amine | COC=1C=CC=C2CCCC(C12)N | C11H15NO
product | rac-N2-(8-Methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-quinoline-2,6-diamine | COC=1C=CC=C2CCCC(C12)NC1=NC2=CC=C(C=C2C=C1)N | C20H21N3O
